US04536209
Production of N-[4-bromo-3-(1-phenacyloxycarbonylbutyloxy)phenyl]-3,4,5,6-tetrahydrophthalimide
A mixture of 2.11 g. of N-[4-bromo-3-(1-carboxybutyloxy)phenyl]-3,4,5,6-tetrahydrophthalimide, 11.19 g. of phenacyl bromide, 0.64 g. of potassium fluoride and 10 ml. of acetonitrile was refluxed with stirring for 8.5 hours and the reaction mixture was cooled and the precipitate was separated by a filtration. The filtrate was concentrated under a reduced pressure and the residue was purified by a chromatography on a column of silica gel (developing solvent of benzene) to obtain 2.20 g. of Compound No. 141 shown in Table 1.

reactant | N-[4-bromo-3-(1-carboxybutyloxy)phenyl]-3,4,5,6-tetrahydrophthalimide | BrC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)OC(CCC)C(=O)O | C19H20BrNO5
reactant | phenacyl bromide | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | potassium fluoride | [F-].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[4-bromo-3-(1-phenacyloxycarbonylbutyloxy)phenyl]-3,4,5,6-tetrahydrophthalimide | BrC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)OC(CCC)C(=O)OCC(=O)C2=CC=CC=C2 | C27H26BrNO6
